US06699904B2
To a stirred solution of 3-(4-carboxymethyl-phenyl)-2,2-dimethyl-propionic acid ethyl ester (0.97 g, 3.67 mmol) in chloroform (15 mL) under an nitrogen atmosphere was added thionyl chloride (11 mmol, 0.804 mL). The mixture was heated under reflux for 2.75 hours, cooled to room temperature and concentrated under reduced pressure to a clear oil. The oil was dissolved in methylene chloride (0.50 mL) then added dropwise to a solution of 1-heptylamine (4.40 mmol, 0.653 mL) and N,N-diisopropylethylamine (4.40 mmol, 0.765 mL) in anhydrous dichloromethane (5 mL) cooled to 0° C. The solution was warmed to room temperature and allowed to stir for 30 minutes, then was poured over a solution of 1 M HCl (10 mL). The aqueous layer was isolated and extracted with diethyl ether (2×). The organic layers were combined, washed with 2N HCl (2×), brine (1×), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give crude 3-(4-heptylcarbamoylmethyl-phenyl)-2,2-dimethyl-propionic acid ethyl ester as an orange oil. The oil was used in the preparation of 3-[4-(2-heptylamino-ethyl)-phenyl]-2,2-dimethyl-propionic acid ethyl ester without further purification. (1.27 g, 95%).

reactant | 3-(4-carboxymethyl-phenyl)-2,2-dimethyl-propionic acid ethyl ester | 3.67 mmol, 0.97 g | C(C)OC(C(CC1=CC=C(C=C1)CC(=O)O)(C)C)=O | C15H20O4
reactant | thionyl chloride | 11 mmol, 0.804 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-heptylamine | 4.40 mmol, 0.653 mL | C(CCCCCC)N | C7H17N
reactant | N,N-diisopropylethylamine | 4.40 mmol, 0.765 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 1 M, 10 mL | Cl | ClH
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(4-heptylcarbamoylmethyl-phenyl)-2,2-dimethyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)CC(NCCCCCCC)=O)(C)C)=O | C22H35NO3
